US05412064
To a 100 mL high pressure reactor with plug are added Bisphenol-A (0.913 g, 4.0 mmole), 9,9-bis(4-hydroxyphenyl) fluorene (2.102 g, 6.0 mmole), p-tert-butyl-phenol (0.045 g, 0.30 mmole), 50 percent NaOH (2.0 g, 25.0 mmole) and water (16.14 g). The reactor plug is loosely screwed in, and a needle connected to a nitrogen source is then inserted through the injector port septum. Nitrogen gas is blown through the air space of the reactor for 10 minutes, then the plug is tightened down. The sealed reactor is placed in a water bath (69°-71° C.), and a magnetic stirrer is started. Within 15 minutes the monomer has dissolved. To this stirred mixture is added phosgene solution in methylene chloride (20.08 g of 6.65 percent solution, 13 mmole) by 25 mL gastight syringe. The syringe is removed and the reaction mixture shaken for 30 seconds. A second shot of 50 percent NaOH (2.0 g, 25 mmole) is added by syringe through the septum. The mixture is shaken 1 minute, then further methylene chloride (11.17 g) is added by syringe, followed by 4-dimethylamino pyridine (0.6 mL of a 1 percent aqueous solution). This mixture is shaken 1 minute, then the reactor swirled in an ice bath. The reactor is opened, and the aqueous phase pipetted off. The organic phase is washed once with 1N HCl and twice with water, and it is then evaporated on a petri dish to give a 9,9-bis(4-hydroxyphenyl) fluorene/Bisphenol-A copolycarbonate film.

reactant | Bisphenol-A | 4.0 mmole, 0.913 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | 9,9-bis(4-hydroxyphenyl) fluorene | 6.0 mmole, 2.102 g | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O | C25H18O2
reactant | p-tert-butyl-phenol | 0.30 mmole, 0.045 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | NaOH | 25.0 mmole, 2.0 g | [OH-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | NaOH | 25 mmole, 2.0 g | [OH-].[Na+]
catalyst | 4-dimethylamino pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 11.17 g | C(Cl)Cl | CH2Cl2
solvent | water | 16.14 g | O | H2O
solvent | methylene chloride | 13 mmole, 20.08 g | C(Cl)Cl | CH2Cl2
product | 9,9-bis(4-hydroxyphenyl) fluorene Bisphenol-A | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C25H18O2.C15H16O2/c26-19-13-9-17(10-14-19)25(18-11-15-20(27)16-12-18)23-7-3-1-5-21(23)22-6-2-4-8-24(22)25;1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12/h1-16,26-27H;3-10,16-17H,1-2H3
